US07074817B2
Ethyl 5-bromo-1-(4-methylbenzyl)-1H-indole-2-carboxylate
The title compound was prepared from ethyl 5-bromo-1H-indole-2-carboxylate and 4-methylbenzyl bromide in substantially the same manner, as described in Step 1 of Example 25. The product was obtained as a semi-solid contained 0.8 mole equivalent DMF. Mass spectrum (ESI, [M+H]+) m/z 372. 1H NMR (400 MHz, DMSO-d6) δ 7.93 (d, 1H, J=7.94 Hz), 7.55 (d, 1H, J=9.01 Hz), 7.40 (dd, 1H, J=8.85 and 1.98 Hz), 7.32 (s, 1H), 7.04 (d, 2H, J=7.96 Hz), 6.90 (d, 2H, J=7.94 Hz), 5.79 (s, 2H), 4.28 (q, 2H), 2.20 (s, 3H), and 1.28 ppm (t, 3H).

reactant | ethyl 5-bromo-1H-indole-2-carboxylate | BrC=1C=C2C=C(NC2=CC1)C(=O)OCC | C11H10BrNO2
reactant | 4-methylbenzyl bromide | CC1=CC=C(CBr)C=C1 | C8H9Br
reactant | DMF | 0.8 mole | CN(C)C=O | C3H7NO
product | Ethyl 5-bromo-1-(4-methylbenzyl)-1H-indole-2-carboxylate | BrC=1C=C2C=C(N(C2=CC1)CC1=CC=C(C=C1)C)C(=O)OCC | C19H18BrNO2
